US06964965B2
To a solution of N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine (4.50 g, 17 mmole) in CH2Cl2 (0.1 M, 170 mL) under N2 at 0° C. was added triethyl amine (7.09 mL, 3.0 eq.). Methyl chloroformate (1.44 mL, 1.1 eq.) was added drop-wise over 15 min. After 1 hour, the reaction mixture was poured into saturated aqueous NaHCO3 (150 mL). The aqueous layer was extracted with CH2Cl2 (1×200 ml), dried with MgSO4, filtered and concentrated. Purification with Biotage MPLC (40 g, 10-50% ethyl acetate in heptane gradient) provided 5.35g (98%) of methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate as an oil. IR (liq.) 2972, 2937, 2877, 2338, 1937, 1708, 1581, 1546, 1499, 1453, 1392, 1189, 1174, 1135, 1103 (s) cm−1 HRMS (ESI) calcd for C16H26N4O3+H1 323.2083. found 323.2089. Anal. Calcd for C16 H26 N4O3: C, 59.61; H, 8.13; N, 17.38. Found: C, 59.23; H, 8.35; N, 17.33.

reactant | N-[(3R,4S)-4-ethoxypyrrolidin-3-yl]-3,6-diethylpyrazin-2-amine | 17 mmole, 4.50 g | C(C)O[C@@H]1[C@@H](CNC1)NC1=NC(=CN=C1CC)CC | C14H24N4O
reactant | triethyl amine | 7.09 mL, 3.0 eq. | C(C)N(CC)CC | C6H15N
reactant | Methyl chloroformate | 1.44 mL, 1.1 eq. | ClC(=O)OC | C2H3ClO2
reactant | NaHCO3 | 150 mL | C(=O)(O)[O-].[Na+]
solvent | CH2Cl2 | 0.1 M, 170 mL | C(Cl)Cl | CH2Cl2
product | methyl (3R,4S)-3-[(3,6-diethylpyrazin-2-yl)amino]-4-ethoxypyrrolidine-1-carboxylate | 5.35g, 98% | C(C)C=1C(=NC(=CN1)CC)N[C@@H]1CN(C[C@@H]1OCC)C(=O)OC | C16H26N4O3
